US07838524B2
Step 1. Preparation of ethyl(4-hydrazinophenyl)acetate hydrochloride
A solution of sodium nitrite (NaNO2, 4.04 g, 58.6 mmol) in H2O (20 mL) was added to a cooled (−5° C., ice-salt) solution of ethyl 4-aminophenylacetate (10 g, 55.8 mmol) in conc. HCl (55 mL), at a rate such that the temperature did not exceed 0° C. The mixture was stirred at 0° C. for 10 min and then added portion-wise to a cooled (−5° C., ice-salt) and rapidly-stirred solution of tin(II) chloride (SnCl2, 39.67 g, 209.2 mmol) in conc. HCl (30 mL), at a rate such that the temperature did not exceed 0° C. The resulting cream-colored suspension was warmed to 25° C. and stirred at room temperature for 2-3 hrs and then was filtered under vacuum. The collected solid was washed with water and ether and then air dried to afford the desired product as a pale solid (HCl salt). Precipitate that formed in the filtrates upon standing for 16 h was collected by filtration, washed with water and ether, and air-dried. The combined solids were obtained in 88% yield (11.28 g). 1H-NMR (DMSO-d6) δ 8.85 (broad, 2H), 7.73 (broad, 1H), 7.10 (d, J=8.4 Hz, 2H), 6.82 (d, J=8.4 Hz, 2H), 4.03 (q, J=7.0 Hz, 2H), 3.53 (s, 2H), 1.16 (t, J=7.1 Hz, 3H); MS LC-MS [M+H]+=195.0, RT=1.11 min.

reactant | sodium nitrite | 58.6 mmol, 4.04 g | N(=O)[O-].[Na+]
reactant | ethyl 4-aminophenylacetate | 55.8 mmol, 10 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | tin(II) chloride | 209.2 mmol, 39.67 g | [Sn](Cl)Cl
solvent | H2O | 20 mL | O | H2O
solvent | HCl | 55 mL | Cl | ClH
solvent | HCl | 30 mL | Cl | ClH
product | ethyl(4-hydrazinophenyl)acetate hydrochloride | 88% yield | Cl.C(C)OC(CC1=CC=C(C=C1)NN)=O | InChI=1S/C10H14N2O2.ClH/c1-2-14-10(13)7-8-3-5-9(12-11)6-4-8;/h3-6,12H,2,7,11H2,1H3;1H
